US07446118B2
To a solution of 6-(3-Methylamino-1-phenyl-propyl)-1H-indole-3-carbonitrile CLV (170 mg, 0.59 mmol) in EtOH (5 ml) was added 50% aqueous solution of NaOH (5 ml). The mixture was refluxed for 90 minutes and excess KOH was added. The resulting mixture was refluxed for additional 48 hours, cooled to room temperature, and concentrated. The residue was partitioned between H2O and CHCl3, and the aqueous layer was extracted with CHCl3. The combined organic layers were washed with brine, dried over Na2SO4, filtered, concentrated and purified via flash chromatography (DCM/MeOH/NH4OH) affording 6-(3-Methylamino-1-phenyl-propyl)-1H-indole-3-carboxylic acid amide CLVI as a white powder (59 mg, 33% yield). MS (M+H)=308.

reactant | 6-(3-Methylamino-1-phenyl-propyl)-1H-indole-3-carbonitrile | CNCCC(C1=CC=CC=C1)C1=CC=C2C(=CNC2=C1)C#N | C19H19N3
reactant | NaOH | 5 ml | [OH-].[Na+]
reactant | KOH | [OH-].[K+]
solvent | EtOH | 5 ml | CCO | C2H6O
product | 6-(3-Methylamino-1-phenyl-propyl)-1H-indole-3-carboxylic acid amide | CNCCC(C1=CC=CC=C1)C1=CC=C2C(=CNC2=C1)C(=O)N | C19H21N3O
